US06919331B2
A solution of N-hydroxy-2-(3-isopropyl-2-oxo-2,3-dihydro-benzoimidazol-1-ylmethyl)-1-(3-methyl-butyl)-1H-benzoimidazole-5-carboxamidine (65 mg, 0.15 mmol) in trimethyl orthoformate (4 mL) in the presence of BF3.OEt2 (5 μL) in a sealed tube was placed in a microwave oven (Smith Creator, Personal Chemistry) and heated at 80° C. for 5 min while stirring. The solvent was removed in vacuo and purified by flash chromatography (eluent hexane-acetone 3:1) to give 1-isopropyl-3-[1-(3-methyl-butyl)-5-[1,2,4]oxadiazol-3-yl-1H-benzoimidazol-2-ylmethyl]-1,3-dihydro-benzoimidazol-2-one (35 mg, 53%) as a white solid:

reactant | N-hydroxy-2-(3-isopropyl-2-oxo-2,3-dihydro-benzoimidazol-1-ylmethyl)-1-(3-methyl-butyl)-1H-benzoimidazole-5-carboxamidine | 0.15 mmol, 65 mg | ONC(=N)C1=CC2=C(N(C(=N2)CN2C(N(C3=C2C=CC=C3)C(C)C)=O)CCC(C)C)C=C1 | C24H30N6O2
reactant | BF3.OEt2 | 5 μL | B(F)(F)F.CCOCC
solvent | trimethyl orthoformate | 4 mL | C(OC)(OC)OC | C4H10O3
product | 1-isopropyl-3-[1-(3-methyl-butyl)-5-[1,2,4]oxadiazol-3-yl-1H-benzoimidazol-2-ylmethyl]-1,3-dihydro-benzoimidazol-2-one | 35 mg, 53% | C(C)(C)N1C(N(C2=C1C=CC=C2)CC2=NC1=C(N2CCC(C)C)C=CC(=C1)C1=NOC=N1)=O | C25H28N6O2
